US06645973B1
Step C: 7-Methoxy-4-phenylspiro[2H-1-benzopyran-2,4′-piperidine]
To a stirred solution of 7-methoxy-N-methyl-4-phenylspiro[2H-1-benzopyran-2,4′-piperidine] (3.76 g, 11.71 mmol) in anhydrous 1,2-dichloropropane (150 cm3) was added potassium carbonate (4.04 g, 29.23 mmol) and the resulting suspension was cooled in an ice-bath before being treated drop-wise with 1-chloroethyl chloroformate (1.58 cm3, 14.64 mmol). The reaction mixture was heated to reflux overnight and a further portion of 1-chloroethyl chloroformate (0.8 cm3, 7.4 mmol) was added before it was heated to reflux for a further 24 h. Upon cooling, the reaction mixture was filtered through cotton wool which was subsequently washed with dichloromethane (50 cm3) and the volatiles were removed in vacuo. The resulting intermediate was treated with methyl alcohol (200 cm3) and the mixture was heated to reflux overnight. Upon cooling, the volatiles were removed in vacuo before the resulting solid was dissolved in a mixture of dichloromethane (150 cm3) and aqueous sodium carbonate solution (5%, 30 cm3). The organic layer was separated, washed with water (2×50 cm3), dried over sodium sulfate and the solvent was removed in vacuo to afford the title compound as a gum (3.93 g).

reactant | 7-methoxy-N-methyl-4-phenylspiro[2H-1-benzopyran-2,4′-piperidine] | 11.71 mmol, 3.76 g | COC1=CC2=C(C(=CC3(CCN(CC3)C)O2)C2=CC=CC=C2)C=C1 | C21H23NO2
reactant | potassium carbonate | 29.23 mmol, 4.04 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-chloroethyl chloroformate | 14.64 mmol, 1.58 cm3 | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | 1-chloroethyl chloroformate | 7.4 mmol, 0.8 cm3 | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | 1,2-dichloropropane | 150 cm3 | ClCC(C)Cl | C3H6Cl2
product | 7-Methoxy-4-phenylspiro[2H-1-benzopyran-2,4′-piperidine] | 3.93 g | COC1=CC2=C(C(=CC3(CCNCC3)O2)C2=CC=CC=C2)C=C1 | C20H21NO2
